US05104866
Sodium 7-[2-(5-carboxylatoamino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate (syn isomer) was prepared by reacting 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate sulfate (syn isomer) (50 mg) and sodium hydrogencarbonate (22 mg) and detected according to a similar manner to that of Example 17.

reactant | 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate sulfate | 50 mg | S(=O)(=O)([O-])O.NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)O)C1=O)=NOC
reactant | sodium hydrogencarbonate | 22 mg | C(O)([O-])=O.[Na+]
product | Sodium 7-[2-(5-carboxylatoamino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate | C(=O)([O-])NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)=NOC.[Na+] | InChI=1S/C19H17N7O7S2.Na/c1-33-23-10(13-21-18(35-24-13)22-19(31)32)14(27)20-11-15(28)26-12(17(29)30)9(8-34-16(11)26)7-25-5-3-2-4-6-25;/h2-6,11,16H,7-8H2,1H3,(H3-,20,21,22,24,27,29,30,31,32);/q;+1/p-1/t11?,16-;/m1./s1
